US08293768B2
Synthesis of 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)-N-methylbenzamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with methylamine to react with 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid, the title compound was obtained as a white powder in 43% yield: mp 173-175° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.73 (d, J=8.4 Hz, 2H), 7.35 (d, J=8.4 Hz, 2H), 6.12 (br s, 1H), 4.52 (s, 2H), 4.12-4.06 (m, 2H), 3.49-3.43 (m, 2H), 3.00 (d, J=4.2 Hz, 3H), 2.67 (s, 3H), 2.46 (s, 3H); MS (ES+) m/z 373.2 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | methylamine | CN | CH5N
reactant | 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O)C | C17H17N3O4S
product | 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)-N-methylbenzamide | 43% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C(=O)NC)C=C1)=O)C | C18H20N4O3S
